US05661155
A suspension of diethyl N-(4-(2-(1.2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)vinyl)benzoyl)-L-glutamate (0.16 g, 0.29 mmol) and palladium on carbon (0.10 g) in ethanol (100 ml) was shaken under hydrogen (40 psi) overnight. Ethanol (80 ml) and acetic acid (20 ml) were added and the mixture was hydrogenated (40 psi) for 1 day. The solution was filtered, concentrated in vacuo, and the residue and catalyst were recombined in acetic acid (40 ml) and hydrogenated over the weekend. The solution was filtered, concentrated in vacuo and the product twice filtered from a small volume of methanol to give diethyl N-(4-(2-(1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)ethyl)benzoyl)-L-glutamate (0.10 g). 1H NMR (DMSO-d6, 300 MHz) δ: 1.16 (t, J=7 Hz, 3H, ester CH3), 1.19 (t, J=7 Hz, 3H, ester CH3), 1.90-2.18 (m, 2H, gluCH2), 2.43 (s, 3H, C3 -CH3), 2.44 (t, J=7.5 Hz, 2H, gluCH2), 3.03-3.22 (m, 4H, ArCH2 's), 4.04 (q, J=7 Hz, 2H, ester CH2), 4.10 (q, J=7 Hz, 2H, ester CH2), 4.37-4.47 (m, 1H, gluCH), 7.40 (d, J=8 Hz, 2H, Ar), 7.54 (dd, J=8, 1.5 Hz, 1H, Ar), 7.57 (d, J=8.5 Hz, 1H, Ar), 7.80 (d, J=8 Hz, 2H, Ar), 7.95 (d, J=8 Hz, 1H, Ar), 8.20 (d, J=9 Hz, 1H, Ar), 8.65 (d, J=7.5 Hz, 1H, gluNH), 9.72 (s, 1H, Ar), 12.51 (br s, 1H, N2H). Mass spectrum (CI-CH4): 544 (M+1, 4.2%). Anal. Calculated for C31H33N3O6.1/10 H2O: C, 68.27; H, 614; N, 7.70. Found: C, 68.34; H, 6.10; N, 7.68.

reactant | diethyl N-(4-(2-(1.2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)vinyl)benzoyl)-L-glutamate | 0.29 mmol, 0.16 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)C=CC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C31H31N3O6
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | Ethanol | 80 ml | C(C)O | C2H6O
product | diethyl N-(4-(2-(1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)ethyl)benzoyl)-L-glutamate | 0.10 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CCC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C31H33N3O6
